* C:\Users\burak\Desktop\EE 464\MetuInstrumentProject\LTspice\Forward Converter.asc
V1 N001 0 30
L1 N006 N001 300µ Rser=0.05
L2 0 N002 1875µ Rser=0.06
M§Q1 N006 N009 N012 N012 BSC320N20NS3
D1 N002 N003 D
D2 0 N003 D
L3 N004 N003 470µ Rser=11.5m
R2 N004 0 4.68
C1 N004 0 100µ Rser=0.05
XU1 N013 N014 N010 N011 MP_01 N012 N009 N008 N007 N001 0 LT3758A
R3 N013 N015 16.2k
C2 N015 0 10n
C3 N013 0 100p
R4 N011 0 140k
C4 N010 0 0.1µ
R5 N004 N014 83.75k
R6 N014 0 10k
R1 N012 0 0.01
R8 N007 0 32.4k
R7 N001 N007 200k
C5 0 N008 4.7µ
D3 N005 N001 D
L4 N005 0 300µ Rser=0.05
.model D D
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L4 1
.tran 2
.lib LT3758A.sub
.backanno
.end
